US07741352B2
4-Amino-2-(2-methoxy-ethoxymethoxy)-benzonitrile
To a solution of 2-(2-Methoxy-ethoxymethoxy)-4-nitro-benzonitrile (2.35 g; 9 mmol) in EtOH/THF (25 mL/1 mL) was added a catalytic amount of 5% Pd/C. The reaction mixture was stirred under H2 atmosphere for 18 hours, filtered through kiselguhr evaporated to dryness and purified by column chromatography (SiO2—MeOH/CH2Cl2=0:1 to 5:95) to yield after evaporation 1.8 g (88%).

reactant | 2-(2-Methoxy-ethoxymethoxy)-4-nitro-benzonitrile | 9 mmol, 2.35 g | COCCOCOC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C11H12N2O5
solvent | EtOH THF | 25 mL | CCO.C1CCOC1
catalyst | Pd/C | [Pd] | Pd
product | 4-Amino-2-(2-methoxy-ethoxymethoxy)-benzonitrile | NC1=CC(=C(C#N)C=C1)OCOCCOC | C11H14N2O3
